US06664285B1
Indirubin-3′-oxime was synthesized by reaction of indirubin with hydroxylamine hydrochloride in a pyridine solution (Farbwerke vorm. Meister Lucius & Brüning in Hoechst a.M., Patentschrift des Reichspatentamtes Nr. 283726 (1913)). 13C-NMR-spectroscopy revealed the location of the hydroxyimino residue in 3′-Position (δ(C2)=171.05 ppm; δ(C3′)=145.42 ppm; DMSO-d6, RT).

reactant | indirubin | C=1C=CC2=C(C1)C(=C(N2)O)C3=NC=4C=CC=CC4C3=O | C16H10N2O2
reactant | hydroxylamine hydrochloride | Cl.NO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | Indirubin-3′-oxime | Yield: 90% | C=1C=CC2=C(C1)C(=C(N2)O)C3=C(C=4C=CC=CC4N3)N=O | C16H11N3O2
